US07262302B2
5-Fluoro-2-methyl-8-oxa-1-thia-3-aza-dibenzo[e,h]azulene (54; Table 3)
To a solution of 11-bromo-8-fluoro-11H-dibenzo[b,f]oxepin-10-one (2.34 mmoles) in dry N,N-dimethylformamide (12 ml), thioacetamide (2.8 mmoles) was added. The reaction mixture was heated under stirring at 90° C. for 3 hours. Then the solvent was evaporated under reduced pressure and the remaining oily product was dissolved in ethyl acetate and water. After extraction the organic layers were washed with a saturated aqueous NaHCO3 solution, water and a saturated aqueous sodium chloride solution. After purification by chromatography on a silica gel column, a crystalline product was isolated.

reactant | 11-bromo-8-fluoro-11H-dibenzo[b,f]oxepin-10-one | 2.34 mmoles | BrC1C2=C(OC3=C(C1=O)C=C(C=C3)F)C=CC=C2 | C14H8BrFO2
reactant | thioacetamide | 2.8 mmoles | C(C)(=S)N | C2H5NS
solvent | N,N-dimethylformamide | 12 ml | CN(C=O)C | C3H7NO
product | 5-Fluoro-2-methyl-8-oxa-1-thia-3-aza-dibenzo[e,h]azulene | FC1=CC2=C(OC3=C(C=4SC(=NC24)C)C=CC=C3)C=C1 | C16H10FNOS
